US09340549B2
A mixture of (S)-2-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)pyridin-2-yl)-N-(1,5-naphthyridin-4-yl)hydrazinecarboxamide (150 mg, 0.319 mmol) and POCl3 (292 μL, 3.19 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) in toluene (6.390 mL) was heated at 100° C. After stirring for 1 hour, an additional 1.5 mL of POCl3 was added to the reaction solution. After stirring for another 3 hours, the reaction mixture was concentrated under reduced pressure. The residue thus obtained was purified by reverse-phase preparative HPLC using 0.1% TFA in ACN/H2O, gradient 20% to 90% over 20 minutes to provide a material which was further purified by chromatography through a Redi-Sep pre-packed silica gel column (12 g), eluting with a gradient of 0% to 10% MeOH in DCM, to provide (S)-3-(3-((1,5-naphthyridin-4-yl)amino)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one (2.41 mg, 5.34 μmol, 1.671% yield) as greenish solid. 1H NMR (500 MHz, DMSO-d6) δ 10.06-10.13 (m, 1H), 8.95-9.00 (m, 1H), 8.64 (br. s, 1H), 8.34-8.39 (m, 1H), 8.28 (d, J=6.09 Hz, 1H), 7.81-7.87 (m, 1H), 7.55 (d, J=9.62 Hz, 1H), 7.46-7.51 (m, 1H), 7.38-7.44 (m, 3H), 7.31-7.37 (m, 3H), 5.63 (s, 1H), 1.67 (s, 3H), 0.95 (s, 3H). m/z (ESI) 452.2 (M+H)+.

reactant | (S)-2-(4-(5,5-dimethyl-2-oxo-4-phenyloxazolidin-3-yl)pyridin-2-yl)-N-(1,5-naphthyridin-4-yl)hydrazinecarboxamide | 0.319 mmol, 150 mg | CC1([C@@H](N(C(O1)=O)C1=CC(=NC=C1)NNC(=O)NC1=CC=NC2=CC=CN=C12)C1=CC=CC=C1)C | C25H23N7O3
reactant | POCl3 | O=P(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 1.5 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 6.390 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-(3-((1,5-naphthyridin-4-yl)amino)-[1,2,4]triazolo[4,3-a]pyridin-7-yl)-5,5-dimethyl-4-phenyloxazolidin-2-one | 5.34 μmol, 2.41 mg, 1.671% yield | N1=CC=C(C2=NC=CC=C12)NC1=NN=C2N1C=CC(=C2)N2C(OC([C@@H]2C2=CC=CC=C2)(C)C)=O | C25H21N7O2
